* 3LevelBuckDep.asc
M1 N001 NC_01 N002 N002 BSC900N20NS3
M2 N002 NC_02 N003 N003 NMOS ron = 1m Coss = {Coss}
V1 N001 0 48
L1 N003 N004 {Lf}
C1 N004 0 Cout
R1 N004 0 Rout
M3 N003 NC_03 N005 N005 BSC900N20NS3
M4 N005 NC_04 0 0 NMOS ron = 1m Coss = {Coss}
D1 N002 N001 D Vf={Vf} Ron={1m} Cd=100p
D2 N003 N002 D Vf={Vf} Ron={1m} Cd=100p
D3 N005 N003 D Vf={Vf} Ron={1m} Cd=100p
D4 0 N005 D Vf={Vf} Ron={1m} Cd=100p
Cfly N002 N005 10µ
.lib LTspiceXVII\lib\cmp\standard.mos
.param Lf = 1u
.param Coss = 1n
.param Cout = 1e-3
.param Rout = 100
.param Vf = 1
.param ts = [1u 50n 1u 50n]
.param swvec = [1 0 1 0 0 0 0 0; 0 0 0 0 0 0 0 0; 0 1 0 1 0 0 0 0; 0 0 0 0 0 0 0 0]
* Note: The parser will look for Cout \nand Rout in the base workspace
.end
